US09062092B2
Compound 50c. 3-(1-Trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester
A cooled (−78° C.) suspension of sodium hydride (502.1 mg, 12.552 mmol, 60% in mineral oil) in anhydrous tetrahydrofuran (20 mL) was slowly treated with a solution of 3-(1-hydroxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester (2.212 g, 8.368 mmol) in anhydrous tetrahydrofuran (20 mL). The light yellow suspension was stirred at −78° C. for 15 minutes and then treated with a solution of N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) (6.572 g, 16.736 mmol) in anhydrous tetrahydrofuran (20 mL). After stirring at room temperature for 3 h, more sodium hydride (502.1 mg, 12.552 mmol, 60% in mineral oil) was added. After stirring at room temperature for 2 h, more sodium hydride (502.1 mg, 12.552 mmol, 60% in mineral oil) was added. After stirring at room temperature for 30 minutes, the reaction was quenched at −20° C. with hydrochloric acid (2 M, 50 mL). The aqueous layer was extracted with dichloromethane (3×). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo to afford the title compound in a mixture which was used without further purification. LCMS (m/z) 397.0 [M+H], Tr=2.48 min.

reactant | sodium hydride | 12.552 mmol, 502.1 mg | [H-].[Na+]
reactant | 3-(1-hydroxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester | 8.368 mmol, 2.212 g | C(C1=CC=CC=C1)OC(=O)C1(COCCC1)C(C)O | C15H20O4
reactant | N-(5-chloro-2-pyridyl)bis(trifluoromethanesulfonimide) | 16.736 mmol, 6.572 g | C1=CC(=NC=C1Cl)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C7H3ClF6N2O4S2
reactant | sodium hydride | 12.552 mmol, 502.1 mg | [H-].[Na+]
reactant | sodium hydride | 12.552 mmol, 502.1 mg | [H-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-(1-Trifluoromethanesulfonyloxy-ethyl)-tetrahydro-pyran-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(COCCC1)C(C)OS(=O)(=O)C(F)(F)F | C16H19F3O6S
